US20010027196A1
2-Amino-4-(5-bromo-furan-2-yl)-6-[(3 5-dimethyl-pyridin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile
From 2-amino-4-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-6-furan-2-yl-pyrimidine-5-carbonitrile and N-bromosuccinimide in DMF. ES-MS m/e (%): 401 (M{81Br}+H+, 100), 399 (M{79Br}+H+, 90).

reactant | 2-amino-4-[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=NC=C(C=C1C)C)C#N)C=1OC=CC1 | C17H16N6O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Amino-4-(5-bromo-furan-2-yl)-6-[(3 5-dimethyl-pyridin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC(=CC1)Br)C#N)NCC1=NC=C(C=C1C)C | C17H15BrN6O
